US09315490B2
141a) (3-(Methylthio)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-yl)-1H-indol-6-yl)(morpholino)methanone
Bis(pinacolato)diboron (322 mg, 1.27 mmol, 1.1 eq), potassium acetate (339 mg, 3.464 mmol, 3.0 eq), and PdCl2(dppf) (94.2 mg, 0.115 mmol, 0.1 eq) were added at room temperature to a solution of (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (500 mg, 1.154 mmol, 1.0 eq) in 1,4-dioxane (10 mL) stirred under an argon atmosphere. The reaction mixture was stirred for 16 h at 100° C., then cooled to room temperature and filtered through a pad of celite. The celite was rinsed with dichloromethane (20 mL) and the filtrate was evaporated. The crude product (500 mg) was so obtained as dark brown oil and used for the next step without further purification.

reactant | Bis(pinacolato)diboron | 1.27 mmol, 322 mg, 1.1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.464 mmol, 339 mg, 3.0 eq | C(C)(=O)[O-].[K+]
reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 1.154 mmol, 500 mg, 1.0 eq | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.115 mmol, 94.2 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (3-(Methylthio)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-yl)-1H-indol-6-yl)(morpholino)methanone | 500 mg | CSC1=CN(C2=CC(=CC=C12)C(=O)N1CCOCC1)C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C24H29BN4O4S
